C1 (net8 vdd!) C=7.2E-7
R2 ( net9 net15)  R=5.6E6
T3 ( net15 net16 vdd! vdd!)  pfet  L=3.87E-6 W=1.68E-6
T4 ( net8 net16 vdd! vdd!)  pfet  L=3.87E-6 W=1.68E-6
T5 ( net14 net15 net8 vdd!)  pfet  L=3.87E-6 W=1.68E-6
T6 (net13 net7 net7 0) pfet L=6.79E-6 W=3.68E-6
T7 ( net10 net10 vdd! vdd!)  pfet  L=6.39E-6 W=9.32E-6
T8 ( net10 net10 vdd! vdd!)  pfet  L=6.39E-6 W=9.32E-6
R9 ( net10 0)  R=5.2E2
R10 (net5 net14) R=7.8E0
R11 (net6 net11) R=6.3E5
T12 (net2 vdd! vdd! 0) pfet L=4.74E-6 W=8.67E-6
C13 (net5 net2) C=2.2E-7
C14 (net6 net11) C=3.6E-12
T15 (net4 net2 net2 0) nfet L=8.75E-6 W=5.52E-6
C16 (net13 net1) C=6.1E-11
R17 (net12 net13) R=8.0E5
R18 (net13 net12) R=9.3E0
R19 (net4 net3) R=0.8E3

