C1 (net10 net1) C=2.4E-12
R2 (0 net8) R=0.2E2
C3 (net6 net1) C=6.8E-12
R4 (net7 net1) R=9.9E3
R5 (net6 net1) R=1.0E4
R6 ( net9 net5)  R=1.4E4
T7 ( net5 net3 0 0)  nfet  L=8.74E-6 W=7.58E-6
T8 ( net7 net3 0 0)  nfet  L=8.74E-6 W=7.58E-6
T9 ( vdd! net5 net3 0)  nfet  L=8.74E-6 W=7.58E-6
T10 (net7 net9 net9 0) pfet L=8.40E-6 W=9.26E-6
R11 ( net1 net2)  R=3.6E0
T12 ( net2 net2 net9 vdd!)  pfet  L=4.92E-6 W=7.03E-6
T13 ( net9 net10 vdd! vdd!)  pfet  L=4.92E-6 W=7.03E-6
T14 ( net10 net10 vdd! vdd!)  pfet  L=4.92E-6 W=7.03E-6
T15 ( net6 net2 net10 vdd!)  pfet  L=4.92E-6 W=7.03E-6
R16 (net8 net6) R=5.5E1

