R1 (net3 net20) R=6.1E5
C2 (net6 net36) C=8.3E-7
R3 (net14 net7) R=7.4E5
T4 ( net49 net49 0 0)  nfet  L=2.98E-6 W=8.35E-6
T5 ( net34 net49 0 0)  nfet  L=2.98E-6 W=8.35E-6
R6 ( net34 0)  R=8.6E0
R7 (net47 net18) R=2.2E1
R8 ( net13 net50)  R=8.6E0
T9 ( net50 net33 vdd! vdd!)  pfet  L=9.82E-6 W=8.17E-6
T10 ( net37 net33 vdd! vdd!)  pfet  L=9.82E-6 W=8.17E-6
T11 ( net1 net50 net37 vdd!)  pfet  L=9.82E-6 W=8.17E-6
C12 (net1 vdd!) C=9.5E-5
C13 (net11 net17) C=9.7E-14
T14 (net36 net20 net20 0) nfet L=8.31E-6 W=2.71E-6
T15 (net36 net29 net29 0) pfet L=8.23E-6 W=2.60E-6
T16 (net9 net18 net18 0) pfet L=9.43E-6 W=2.52E-6
T17 (net12 net9 net9 0) nfet L=6.71E-6 W=7.82E-6
C18 (net20 net18) C=3.2E-6
R19 (net52 net1) R=1.6E3
R20 (net17 net47) R=7.9E5
T21 (vdd! net19 net19 0) nfet L=4.57E-6 W=9.52E-6
T22 (net1 net17 net17 0) nfet L=4.09E-6 W=6.58E-6
C23 (net47 net41) C=7.0E-5
T24 (net18 net40 net40 0) nfet L=7.65E-6 W=3.49E-6
T25 (net5 net30 net30 0) nfet L=9.86E-6 W=2.43E-6
T26 (net1 net32 net32 0) pfet L=5.92E-6 W=3.45E-6
T27 (net13 net10 net10 0) pfet L=9.84E-6 W=1.95E-6
T28 (net14 net45 net45 0) nfet L=5.81E-6 W=7.34E-6
R29 (net9 net8) R=9.2E4
T30 (net51 net36 net36 0) pfet L=2.91E-6 W=4.92E-6
R31 (net17 net32) R=3.0E1
R32 (net1 net18) R=8.1E4
R33 (net22 net13) R=1.9E0
R34 (net6 net45) R=5.4E6
R35 (0 net17) R=1.0E1
T36 (net7 net9 net9 0) pfet L=0.33E-6 W=1.48E-6
T37 (net18 net35 net35 0) pfet L=9.62E-6 W=0.44E-6
T38 (net8 net44 net44 0) nfet L=9.18E-6 W=1.11E-6
T39 (net4 net17 net17 0) nfet L=0.82E-6 W=1.86E-6
C40 (net42 net11) C=1.8E-8
R41 (net14 net42) R=2.3E5
T42 (net35 net36 net36 0) nfet L=3.22E-6 W=7.39E-6
R43 (net9 net36) R=9.5E1
C44 (net40 net1) C=2.8E-10
C45 (net32 net18) C=8.0E-7
T46 (net38 net42 net42 0) pfet L=1.53E-6 W=0.71E-6
T47 (net1 net26 net26 0) nfet L=1.61E-6 W=5.89E-6
C48 (net18 0) C=4.0E-12
C49 (net45 net52) C=0.6E-10
T50 (0 net30 net30 0) pfet L=7.06E-6 W=4.33E-6
T51 (net44 net17 net17 0) nfet L=1.08E-6 W=6.38E-6
T52 (net36 net18 net18 0) nfet L=0.44E-6 W=9.26E-6
T53 (net21 net51 net51 0) pfet L=6.97E-6 W=4.90E-6
C54 (net18 net11) C=8.3E-5
C55 (net14 net6) C=0.9E-11

