T1 (net15 net16 net16 0) nfet L=3.96E-6 W=4.38E-6
R2 (net4 net28) R=3.6E5
T3 (net18 net17 net17 0) pfet L=2.10E-6 W=7.39E-6
R4 ( net29 net6)  R=9.7E4
T5 ( net6 net6 vdd! vdd!)  pfet  L=7.81E-6 W=6.34E-6
T6 ( net22 net6 vdd! vdd!)  pfet  L=7.81E-6 W=6.34E-6
C7 (vdd! net19) C=0.6E-14
C8 (net2 net31) C=9.1E-12
R9 (net31 net20) R=3.0E2
R10 (net24 net12) R=6.2E0
R11 ( net27 net26)  R=3.4E0
T12 ( net26 net26 vdd! vdd!)  pfet  L=8.72E-6 W=1.22E-6
T13 ( net31 net26 vdd! vdd!)  pfet  L=8.72E-6 W=1.22E-6
T14 (net5 net13 net13 0) pfet L=1.24E-6 W=0.43E-6
R15 (net2 net24) R=5.3E6
R16 (net14 net28) R=3.7E1
R17 (0 net4) R=2.5E3
R18 (net2 net28) R=4.2E5
T19 (net25 net27 net27 0) nfet L=5.47E-6 W=3.69E-6
T20 (net28 net29 net29 0) nfet L=2.95E-6 W=8.08E-6
R21 (net9 net10) R=7.2E0
T22 (vdd! net10 net10 0) pfet L=8.09E-6 W=7.68E-6
T23 (net29 net21 net21 0) pfet L=0.41E-6 W=9.65E-6
C24 (net15 net2) C=1.9E-7
R25 (net16 net10) R=6.4E4
T26 (net21 net4 net4 0) nfet L=8.15E-6 W=5.22E-6
C27 (net19 net21) C=6.7E-10
C28 (0 net19) C=1.3E-5
R29 (0 net7) R=6.7E6
C30 (net25 net9) C=3.4E-14
C31 (net2 net22) C=1.6E-10
T32 (net17 net2 net2 0) pfet L=9.31E-6 W=3.73E-6
C33 (net2 net23) C=8.0E-5
C34 (net12 net21) C=5.6E-5
T35 (net9 net25 net25 0) pfet L=6.35E-6 W=3.40E-6
T36 (net20 net31 net31 0) pfet L=4.47E-6 W=8.23E-6
R37 (net21 net16) R=5.1E4
T38 (net4 net9 net9 0) pfet L=5.24E-6 W=4.44E-6
R39 (net16 net12) R=2.4E4
R40 (net10 net7) R=9.9E3
T41 (net3 net13 net13 0) pfet L=2.62E-6 W=7.78E-6
T42 (net30 0 0 0) nfet L=6.37E-6 W=0.42E-6
R43 (net13 net30) R=8.3E3
T44 (net20 net18 net18 0) nfet L=3.83E-6 W=6.06E-6
T45 (net4 net1 net1 0) nfet L=5.45E-6 W=8.62E-6
R46 (net21 net17) R=6.0E0
T47 (net19 net25 net25 0) pfet L=0.94E-6 W=4.78E-6
T48 (net14 net13 net13 0) nfet L=0.75E-6 W=3.06E-6
C49 (net14 net7) C=4.0E-9

