R1 ( net28 net6)  R=5.9E5
T2 ( net6 net6 net23 0)  nfet  L=3.33E-6 W=8.11E-6
T3 ( net23 net1 0 0)  nfet  L=3.33E-6 W=8.11E-6
T4 ( net1 net1 0 0)  nfet  L=3.33E-6 W=8.11E-6
T5 ( net22 net6 net1 0)  nfet  L=3.33E-6 W=8.11E-6
T6 (net26 net9 net9 0) pfet L=6.58E-6 W=5.28E-6
R7 (net20 net28) R=5.7E5
T8 (net28 net13 net13 0) nfet L=2.57E-6 W=9.12E-6
T9 ( net28 net28 0 0)  nfet  L=9.07E-6 W=1.67E-6
T10 ( net32 net28 0 0)  nfet  L=9.07E-6 W=1.67E-6
R11 ( net32 net8)  R=0.7E4
T12 (net14 net20 net20 0) pfet L=9.25E-6 W=8.13E-6
R13 (net25 net13) R=0.7E0
R14 (net4 net10) R=0.4E3
R15 (net19 vdd!) R=4.5E2
R16 (net20 net4) R=9.8E3
C17 (net33 net5) C=0.4E-7
R18 (net28 net11) R=7.4E4
T19 (net29 net21 net21 0) nfet L=1.59E-6 W=7.03E-6
T20 (net34 net12 net12 0) nfet L=8.72E-6 W=9.70E-6
T21 (net22 vdd! vdd! 0) nfet L=2.12E-6 W=6.14E-6
C22 (net26 net27) C=7.6E-8
C23 (vdd! net26) C=2.0E-12
R24 (net5 net13) R=5.5E5
T25 (net28 net25 net25 0) nfet L=4.09E-6 W=0.72E-6
C26 (net13 net30) C=0.2E-14
C27 (net11 net9) C=9.1E-14
T28 (net29 net16 net16 0) nfet L=7.44E-6 W=6.29E-6
R29 (net25 net2) R=3.2E2
T30 (net30 net9 net9 0) pfet L=3.87E-6 W=6.06E-6
T31 (net2 0 0 0) nfet L=5.22E-6 W=9.44E-6
T32 (net10 net8 net8 0) nfet L=5.98E-6 W=2.54E-6
T33 (net7 net7 net7 0) pfet L=6.70E-6 W=8.59E-6
T34 (net3 net20 net20 0) pfet L=0.58E-6 W=3.03E-6
R35 (net16 net27) R=4.8E3
T36 (net22 net20 net20 0) nfet L=6.63E-6 W=9.81E-6

