C1 (net23 0) C=1.7E-6
R2 (net11 net6) R=4.6E3
T3 ( net5 net5 0 0)  nfet  L=4.35E-6 W=6.91E-6
T4 ( net12 net5 0 0)  nfet  L=4.35E-6 W=6.91E-6
R5 ( net12 net23)  R=1.9E5
T6 (net7 net16 net16 0) nfet L=3.69E-6 W=2.01E-6
R7 ( net2 net24)  R=1.1E2
T8 ( net24 net6 vdd! vdd!)  pfet  L=8.75E-6 W=4.21E-6
T9 ( net16 net6 vdd! vdd!)  pfet  L=8.75E-6 W=4.21E-6
T10 ( net9 net24 net16 vdd!)  pfet  L=8.75E-6 W=4.21E-6
T11 (0 net1 net1 0) pfet L=6.81E-6 W=3.01E-6
R12 (net10 net14) R=2.8E0
R13 (net4 net14) R=6.9E1
C14 (net9 net14) C=1.2E-6
T15 (vdd! net18 net18 0) nfet L=2.66E-6 W=5.28E-6
R16 (net5 net2) R=3.6E5
T17 (vdd! net9 net9 0) pfet L=5.84E-6 W=7.39E-6
R18 (net3 net22) R=3.7E5
C19 (net22 net3) C=0.7E-13
T20 (net7 net8 net8 0) nfet L=8.69E-6 W=9.04E-6
T21 (net19 net3 net3 0) nfet L=0.62E-6 W=7.75E-6

