T1 ( net6 net6 0 0)  nfet  L=6.37E-6 W=8.19E-6
T2 ( net7 net6 0 0)  nfet  L=6.37E-6 W=8.19E-6
R3 ( net7 net12)  R=5.9E4
R4 (net8 net6) R=2.5E5
T5 (net9 net8 net8 0) nfet L=5.36E-6 W=2.62E-6
T6 (vdd! net4 net4 0) pfet L=2.77E-6 W=7.38E-6
T7 (net3 net6 net6 0) pfet L=7.03E-6 W=3.23E-6
R8 ( net8 net1)  R=1.7E0
T9 ( net1 net1 0 0)  nfet  L=6.31E-6 W=6.95E-6
T10 ( net5 net1 0 0)  nfet  L=6.31E-6 W=6.95E-6
C11 (net8 net9) C=7.6E-6
T12 (net9 net12 net12 0) nfet L=1.80E-6 W=8.78E-6
T13 (net4 net3 net3 0) pfet L=2.98E-6 W=6.00E-6
R14 (net12 net5) R=2.2E2
T15 (net2 net12 net12 0) pfet L=5.42E-6 W=8.64E-6
R16 (net12 net2) R=5.4E3
T17 (0 net8 net8 0) pfet L=9.44E-6 W=3.12E-6
R18 (net4 net12) R=0.5E4
C19 (net9 net4) C=5.8E-8
T20 (net10 0 0 0) nfet L=1.24E-6 W=5.04E-6
C21 (net11 net6) C=6.0E-8
T22 (net5 net10 net10 0) nfet L=8.17E-6 W=1.82E-6
T23 (0 net5 net5 0) nfet L=9.87E-6 W=9.86E-6
C24 (net9 net3) C=1.9E-13
T25 (net11 net5 net5 0) pfet L=5.16E-6 W=5.04E-6
T26 (net2 0 0 0) nfet L=5.01E-6 W=7.21E-6
T27 (net3 net9 net9 0) nfet L=4.34E-6 W=8.60E-6
T28 (net9 net9 net9 0) pfet L=3.07E-6 W=5.06E-6
T29 (net5 net8 net8 0) nfet L=6.38E-6 W=7.64E-6
C30 (net6 net12) C=4.2E-12
T31 (net3 net8 net8 0) pfet L=5.16E-6 W=3.28E-6
C32 (net2 net10) C=1.4E-11
C33 (vdd! net12) C=7.5E-10
R34 (net5 net9) R=5.1E0
T35 (net12 net9 net9 0) pfet L=2.32E-6 W=7.01E-6
T36 (0 net8 net8 0) pfet L=6.14E-6 W=9.36E-6
C37 (net8 net10) C=8.4E-8
C38 (net11 net3) C=0.9E-12
T39 (net10 net6 net6 0) pfet L=8.74E-6 W=5.52E-6
T40 (net10 net8 net8 0) nfet L=4.72E-6 W=2.93E-6
C41 (net3 net11) C=8.9E-13
R42 (net8 net12) R=8.1E1
C43 (net9 net4) C=6.4E-9
T44 (net4 net12 net12 0) pfet L=3.50E-6 W=5.11E-6
T45 (net6 net9 net9 0) pfet L=0.89E-6 W=2.44E-6
T46 (net6 net4 net4 0) pfet L=8.74E-6 W=6.64E-6
C47 (net11 net10) C=4.0E-9
C48 (net5 net3) C=2.6E-8
C49 (net8 net12) C=9.7E-10
C50 (net12 net9) C=3.9E-13
C51 (net6 vdd!) C=4.1E-10
C52 (net11 net12) C=0.6E-10
R53 (net4 net9) R=9.0E1

