T1 (net6 vdd! vdd! 0) pfet L=8.59E-6 W=7.46E-6
R2 (net13 net4) R=6.7E2
T3 ( net14 net14 vdd! vdd!)  pfet  L=9.26E-6 W=5.48E-6
T4 ( net15 net14 vdd! vdd!)  pfet  L=9.26E-6 W=5.48E-6
R5 ( net15 net2)  R=8.2E6
T6 (net8 net9 net9 0) pfet L=2.42E-6 W=3.04E-6
R7 ( net10 net14)  R=0.8E4
T8 ( net14 net3 vdd! vdd!)  pfet  L=2.67E-6 W=6.14E-6
T9 ( net12 net3 vdd! vdd!)  pfet  L=2.67E-6 W=6.14E-6
T10 ( net11 net14 net12 vdd!)  pfet  L=2.67E-6 W=6.14E-6
C11 (net6 net11) C=9.1E-7
T12 (net11 net5 net5 0) pfet L=9.75E-6 W=7.67E-6
T13 (net1 net16 net16 0) pfet L=9.89E-6 W=6.04E-6
T14 (net8 net11 net11 0) nfet L=4.69E-6 W=4.05E-6
T15 (net18 net9 net9 0) nfet L=8.08E-6 W=8.64E-6
T16 (vdd! net11 net11 0) pfet L=8.25E-6 W=0.33E-6
R17 (net16 net17) R=3.9E3
T18 (net6 net17 net17 0) pfet L=0.23E-6 W=4.33E-6
T19 (vdd! net9 net9 0) nfet L=3.33E-6 W=0.84E-6
C20 (net9 net18) C=8.9E-6
T21 (0 net1 net1 0) pfet L=8.09E-6 W=8.26E-6
C22 (net10 net6) C=6.2E-11
R23 (net7 net1) R=0.9E0
T24 (net2 net11 net11 0) pfet L=5.34E-6 W=1.64E-6
C25 (net6 net13) C=1.9E-8
T26 (net10 net18 net18 0) nfet L=7.67E-6 W=9.86E-6

