R1 ( net22 net8)  R=4.6E3
T2 ( net8 net10 vdd! vdd!)  pfet  L=7.99E-6 W=2.00E-6
T3 ( net7 net10 vdd! vdd!)  pfet  L=7.99E-6 W=2.00E-6
T4 ( net24 net8 net7 vdd!)  pfet  L=7.99E-6 W=2.00E-6
T5 (vdd! net23 net23 0) nfet L=6.02E-6 W=9.54E-6
R6 (net19 net22) R=1.2E2
C7 (net22 net24) C=2.6E-14
R8 ( net12 net3)  R=0.4E0
T9 ( net3 net4 vdd! vdd!)  pfet  L=2.58E-6 W=2.44E-6
T10 ( net16 net4 vdd! vdd!)  pfet  L=2.58E-6 W=2.44E-6
T11 ( net12 net3 net16 vdd!)  pfet  L=2.58E-6 W=2.44E-6
T12 (net5 net12 net12 0) nfet L=4.46E-6 W=1.27E-6
R13 (net24 net13) R=4.6E0
T14 (net14 net5 net5 0) nfet L=4.82E-6 W=9.93E-6
T15 (net22 net19 net19 0) pfet L=9.76E-6 W=9.54E-6
T16 (net20 0 0 0) pfet L=1.76E-6 W=8.88E-6
C17 (net12 net19) C=1.4E-12
T18 (net13 net6 net6 0) pfet L=0.90E-6 W=4.12E-6

