R1 ( net20 net9)  R=5.6E4
T2 ( net9 net9 net11 vdd!)  pfet  L=5.86E-6 W=6.11E-6
T3 ( net11 net16 vdd! vdd!)  pfet  L=5.86E-6 W=6.11E-6
T4 ( net16 net16 vdd! vdd!)  pfet  L=5.86E-6 W=6.11E-6
T5 ( net2 net9 net16 vdd!)  pfet  L=5.86E-6 W=6.11E-6
T6 (vdd! net4 net4 0) pfet L=0.49E-6 W=0.94E-6
R7 ( net2 net7)  R=4.0E3
T8 ( net7 net5 vdd! vdd!)  pfet  L=6.93E-6 W=5.96E-6
T9 ( net4 net5 vdd! vdd!)  pfet  L=6.93E-6 W=5.96E-6
T10 ( 0 net7 net5 vdd!)  pfet  L=6.93E-6 W=5.96E-6
T11 (vdd! net14 net14 0) nfet L=8.14E-6 W=6.86E-6
R12 (net18 vdd!) R=9.2E5
T13 (net12 net3 net3 0) nfet L=1.40E-6 W=1.10E-6
T14 (net6 net21 net21 0) pfet L=4.34E-6 W=2.99E-6
C15 (net15 vdd!) C=5.8E-6
C16 (net13 net20) C=7.8E-12
R17 (net17 net2) R=8.2E2
R18 (net20 net3) R=0.6E3
C19 (net10 net8) C=2.1E-12
R20 (net17 net2) R=5.1E3
R21 (net2 net18) R=6.7E2
T22 (net17 net17 net17 0) pfet L=1.51E-6 W=6.87E-6
C23 (net17 net12) C=5.1E-10
R24 (0 net1) R=1.6E1
T25 (net19 net6 net6 0) pfet L=4.22E-6 W=7.18E-6
T26 (vdd! net10 net10 0) pfet L=2.50E-6 W=7.96E-6
R27 (net2 net17) R=6.5E5
T28 (0 net2 net2 0) pfet L=8.77E-6 W=7.30E-6
R29 (net20 net14) R=7.8E6

