R1 ( net1 net7)  R=5.1E1
T2 ( net7 net6 vdd! vdd!)  pfet  L=1.48E-6 W=6.35E-6
T3 ( net9 net6 vdd! vdd!)  pfet  L=1.48E-6 W=6.35E-6
T4 ( net5 net7 net9 vdd!)  pfet  L=1.48E-6 W=6.35E-6
T5 (net10 net3 net3 0) pfet L=2.48E-6 W=0.29E-6
R6 ( net4 net1)  R=8.0E4
T7 ( net1 net1 net11 0)  nfet  L=4.04E-6 W=8.62E-6
T8 ( net11 net5 0 0)  nfet  L=4.04E-6 W=8.62E-6
T9 ( net5 net5 0 0)  nfet  L=4.04E-6 W=8.62E-6
T10 ( net10 net1 net5 0)  nfet  L=4.04E-6 W=8.62E-6
T11 (net10 net3 net3 0) pfet L=6.13E-6 W=6.78E-6
R12 (net4 net10) R=7.3E4
R13 (net4 0) R=1.0E6
C14 (net3 net2) C=5.5E-9
C15 (net10 net4) C=0.2E-9
R16 (net2 net8) R=8.1E4
C17 (net3 net8) C=0.9E-14
R18 (net2 net4) R=1.2E3
C19 (net4 net3) C=1.9E-11
C20 (vdd! net8) C=0.8E-8
T21 (net8 net8 net8 0) nfet L=6.49E-6 W=7.07E-6
R22 (net10 vdd!) R=0.2E5
C23 (net3 net2) C=0.3E-14
T24 (net2 net2 net2 0) pfet L=4.26E-6 W=2.75E-6
T25 (net2 net8 net8 0) pfet L=8.52E-6 W=4.90E-6
C26 (net8 net3) C=4.9E-9
C27 (net3 net2) C=8.1E-13
C28 (net3 net2) C=5.8E-14
T29 (0 net8 net8 0) nfet L=5.45E-6 W=4.67E-6
T30 (net2 net10 net10 0) nfet L=2.78E-6 W=4.22E-6
T31 (net8 net3 net3 0) pfet L=5.46E-6 W=3.25E-6
C32 (net8 net10) C=9.5E-10
T33 (net8 net2 net2 0) nfet L=9.45E-6 W=2.20E-6
C34 (net2 net10) C=2.6E-12

